US04410528
Reference Example 7: 1-tert.-Butoxycarbonyl-4-(2-aminophenylmethylamino)-piperidine
In this reference example, 40 g of 1-tert.-butoxycarbonyl-4-(2-nitrophenylmethylamino)-piperidine obtained in the same manner as that of Reference Example 6, 100 ml of ethanol, 60 ml of methanol and 4 g of palladium carbon are mixed. The mixture is shaken in an atmosphere of hydrogen at room temperature under 40-45 psi. The catalyst is filtered off and the filtrate is concentrated to obtain 35.1 g of oily material as the residue. The residue is crystallized with the addition of n-hexane to obtain 28.3 g of the crude crystals. Though the crude crystals are usable to the following reaction, a part of the crystals is recrystallized from n-hexane to obtain the desired compound.

reactant | 1-tert.-butoxycarbonyl-4-(2-nitrophenylmethylamino)-piperidine | 40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=C(C=CC=C1)[N+](=O)[O-] | C17H25N3O4
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 4 g | [C].[Pd]
solvent | methanol | 60 ml | CO | CH4O
product | 1-tert.-Butoxycarbonyl-4-(2-aminophenylmethylamino)-piperidine | 35.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=C(C=CC=C1)N | C17H27N3O2
